US03950376
To a stirred solution of 4-chloro-3-mercapto-5-sulfamylbenzoic acid (5.5 g) in 1 N sodium hydroxide (29.5 ml), butyl iodide (2.1 ml) is added. After additional stirring for 50 hours precipitates the sodium salt of 3-butylthio-4-chloro-5-sulfamylbenzoic acid which is collected and washed with ice water. The sodium salt is suspended in water (25 ml) and 1 N hydrochloric acid added slowly until a pH value of 1. The precipitate is collected by filtration and recrystallized from aqueous ethanol to yield 3-butylthio-4-chloro-5-sulfamylbenzoic acid with a melting point of 202° - 203° C.

reactant | 4-chloro-3-mercapto-5-sulfamylbenzoic acid | 5.5 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)S | C7H6ClNO4S2
solvent | sodium hydroxide | 1 N, 29.5 ml | [OH-].[Na+]
solvent | butyl iodide | 2.1 ml | C(CCC)I | C4H9I
product | 3-butylthio-4-chloro-5-sulfamylbenzoic acid | C(CCC)SC=1C=C(C(=O)O)C=C(C1Cl)S(N)(=O)=O | C11H14ClNO4S2
